US04814345
475 g of chloracetic acid (5 moles) are heated with 930 g aniline (10 moles) in 2 l water for 1.5 h to 100° C. After cooling, the N-phenylglycine formed is suctioned off and washed with water. Yield is 468 g (=62% with respect to the chloracetic acid).

reactant | chloracetic acid | 5 moles, 475 g | ClCC(=O)O | C2H3ClO2
reactant | aniline | 10 moles, 930 g | NC1=CC=CC=C1 | C6H7N
solvent | water | 2 l | O | H2O
product | N-phenylglycine | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
